US08071773B2
a) 6,7-Dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-pyrrolidine]
A solution of 1.00 mmol of 1′-benzyl-6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-pyrrolidine] in 5 ml of methanol is admixed with 1 mmol of 2M aqueous hydrochloric acid and 0.10 g of 10% Pd/C. The reaction mixture is hydrogenated with 1 bar of hydrogen at 22° C. for 18 hours. The reaction mixture is filtered over Hyflo and the filtrate is evaporated. The residue is taken up in ethyl acetate and the amine is liberated with saturated aqueous sodium carbonate solution. The phases are separated and the aqueous phase is extracted with ethyl acetate. The combined organic phases are dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | 1′-benzyl-6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-pyrrolidine] | 1.00 mmol | C(C1=CC=CC=C1)N1CC2(CC1)C=1N(CCC2)C=NC1 | C17H21N3
reactant | hydrochloric acid | 1 mmol, 2M | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | 6,7-Dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-pyrrolidine] | N1CC2(CC1)C=1N(CCC2)C=NC1 | C10H15N3
